US05981572
N-[3-(7-Chloro-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide
A solution of N-[3-(7-chloro-benzofuran-4-yl)-propyl]-acetamide (48 mg) in ethanol (15 ml) was hydrogenated over rhodium catalyst (5% on carbon; 15 mg) over 7 h. The catalyst was filtered off and the filtrate evaporated. The residue was purified by column chromatography, eluting with dichloromethane/methanol 50:1 gave the title compound as a colourless solid (37.6 mg) mp 76-78°

reactant | N-[3-(7-chloro-benzofuran-4-yl)-propyl]-acetamide | 48 mg | ClC1=CC=C(C=2C=COC21)CCCNC(C)=O | C13H14ClNO2
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | rhodium | 15 mg | [Rh] | Rh
product | N-[3-(7-Chloro-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide | 37.6 mg | ClC1=CC=C(C=2CCOC21)CCCNC(C)=O | C13H16ClNO2
